US08426411B2
A mixture of 1-benzylpiperidin-3-one hydrochloride (1.00 g, 4.10 mmol), tert-butyl hydrazinecarboxylate (0.596 g, 4.51 mmol), and AcOH (0.470 mL, 8.21 mmol) in DCE (20 mL) was stirred at ambient temperature for about 1 h then NaCNBH3 (0.258 g, 4.10 mmol) was added. The reaction mixture was stirred at ambient temperature for about 16 h. The reaction mixture was quenched by the addition of saturated aqueous NaHCO3 (50 mL). The organic layer was separated, concd under reduced pressure and purified by RP-HPLC (Table 1, Method h) to afford tert-butyl 2-(1-benzylpiperidin-3-yl)hydrazinecarboxylate (1.25 g, 100%) as a clear oil: LC/MS (Table 1, Method b) Rt=1.66 min; MS m/z: 306 (M+H)+.

reactant | 1-benzylpiperidin-3-one hydrochloride | 4.10 mmol, 1.00 g | Cl.C(C1=CC=CC=C1)N1CC(CCC1)=O
reactant | tert-butyl hydrazinecarboxylate | 4.51 mmol, 0.596 g | N(N)C(=O)OC(C)(C)C | C5H12N2O2
reactant | AcOH | 8.21 mmol, 0.470 mL | CC(=O)O | C2H4O2
reactant | NaCNBH3 | 4.10 mmol, 0.258 g | [BH3-]C#N.[Na+]
solvent | DCE | 20 mL | ClCCCl | C2H4Cl2
product | tert-butyl 2-(1-benzylpiperidin-3-yl)hydrazinecarboxylate | 1.25 g, 100% | C(C1=CC=CC=C1)N1CC(CCC1)NNC(=O)OC(C)(C)C | C17H27N3O2
